### PR TITLE
ErdosProblems/857: add initial conjecture scaffold

### LINKED ISSUE #982: Erdős Problem 857
### What is the conjecture

https://www.erdosproblems.com/857

  Let $m=m(n,k)$ be minimal such that in any collection of sets $A_1,\ldots,A_m\subseteq \\{1,\ldots,n\\}$ there must exist a sunflower of size $k$ - that is, some collection of $k$ of the $A_i$ which pairwise have the same intersection.

Estimate $m(n,k)$, or even better, give an asymptotic formula.

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by SproutSeeds**
## Summary

Adds an initial scaffold for **Erdős Problem 857** in `FormalConjectures/ErdosProblems/857.lean`.

Closes #982.

This formalizes the statement layer only, with:

- non-uniform extremal quantity `m (n, k)` over families of subsets of `Fin n`
- shared sunflower definitions moved to `FormalConjecturesForMathlib.Combinatorics.SetFamily.Sunflower`
- main statement `erdos_857` using the repository's `answer(sorry)` pattern for the unknown asymptotic family

## Motivation

`857` is currently missing from `FormalConjectures/ErdosProblems/`.
This PR adds a concise, reviewable formal statement entry point aligned with repository conventions.

## Conventions

- Uses `@[category research open, AMS 5]`.
- Uses `answer(sorry)` for the open problem statement.
- Includes problem reference in the module docstring.
- Avoids importing one conjecture file from another by placing the reusable sunflower API in `FormalConjecturesForMathlib`.

## Verification

- `COPYFILE_DISABLE=1 ~/.elan/bin/lake exe cache get`
- `COPYFILE_DISABLE=1 ~/.elan/bin/lake build FormalConjecturesForMathlib.Combinatorics.SetFamily.Sunflower FormalConjectures.ErdosProblems.«20» FormalConjectures.ErdosProblems.«857»`

## Notes

Opening as a statement scaffold, not a proof of the conjecture.

### CODE REVIEW

**Comment by Smetalo** [comment]
Does this resolve #982?

**Comment by SproutSeeds** [comment]
Yes — this PR is the scaffold for Erdős Problem 857, i.e. issue `#982`. I have now added the closing reference in the PR body.

I also pushed a small cleanup in `8c6a083` to reuse the existing sunflower definitions from `ErdosProblems/20.lean` instead of duplicating them locally in `857.lean`.

File: FormalConjectures/ErdosProblems/857.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+def hasAsymptoticFormula (k : ℕ) : Prop :=
+  ∃ g : ℕ → ℝ,
+    Tendsto (fun n : ℕ => (m n k : ℝ) / g n) atTop (nhds 1)
+
+/--
+Estimate `m(n,k)`, or better give an asymptotic formula.
+-/
+@[category research open, AMS 5]
+theorem erdos_857 : answer(sorry) ↔ ∀ k : ℕ, 3 ≤ k → hasAsymptoticFormula k := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/857.lean:47]: This formalization is trivially true because `hasAsymptoticFormula` merely asserts
the existence of *some* function `g` such that `m(n,k)/g(n) → 1`, and one can always
take `g = m(·,k)` itself to get a constant ratio of 1.

```lean
@[category research open, AMS 5]
theorem erdos_857 : answer(True) ↔ ∀ k : ℕ, 3 ≤ k → hasAsymptoticFormula k := by
  constructor
  · intro _ k _
    -- Witness: g(n) = m(n, k). Then m(n,k)/g(n) = m(n,k)/m(n,k) = 1 (when m(n,k) > 0).
    -- Since m(n,k) ≥ 1 for k ≥ 1 (the empty family has no k-sunflower),
    -- the ratio is constantly 1, and the limit is trivially 1.
    refine ⟨fun n => (m n k : ℝ), ?_⟩
    have h : (fun n : ℕ => (m n k : ℝ) / (m n k : ℝ)) = fun _ => 1 := by
      ext n
      apply div_self
      -- Need: (m n k : ℝ) ≠ 0, i.e., m n k ≠ 0
      -- m n k = sInf {t | ...} ≥ 1 since 0 is not in the set
      -- (the empty family F = ∅ has F.ncard = 0 ≥ 0 but no k-sunflower for k ≥ 1)
      simp only [Nat.cast_ne_zero]
      intro h0
      -- h0 : m n k = 0, i.e. sInf {t | ...} = 0
      -- This means 0 ∈ {t | ...}, which means every F with 0 ≤ F.ncard has a k-sunflower
      -- But F = ∅ has ncard 0 and no k-sunflower for k ≥ 1
      have : 0 ∈ {t : ℕ | ∀ (F : Set (Set (Fin n))), t ≤ F.ncard →
        ∃ S ⊆ F, S.ncard = k ∧ Erdos20.IsSunflower S} := by
        rw [← h0]
        exact Nat.sInf_mem (Set.nonempty_of_mem (show 2 ^ n + 1 ∈ _ from by
          intro F hF
          exfalso
          have : F.ncard ≤ 2 ^ n := by
            have h1 : F.ncard ≤ (Set.univ : Set (Set (Fin n))).ncard :=
              Set.ncard_le_ncard (Set.subset_univ _) Set.finite_univ
            have h2 : (Set.univ : Set (Set (Fin n))).ncard = 2 ^ n := by
              rw [Set.ncard_univ]
              simp [Nat.card_eq_fintype_card, Fintype.card_set]
            linarith
          omega))
      simp only [Set.mem_setOf_eq] at this
      have := this (∅ : Set (Set (Fin n))) (by simp)
      obtain ⟨S, hS, hSk, _⟩ := this
      have : S = ∅ := Set.subset_eq_empty hS rfl
      subst this
      simp at hSk
      omega
    rw [h]
    exact tendsto_const_nhds
  · intro _; trivial
```

File: FormalConjectures/ErdosProblems/857.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import FormalConjectures.ErdosProblems.«20»
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/857.lean]: consider moving the sunflower definition to `ForMathlib`.

**Review by mo271 — COMMENTED** [review]
Thanks for the pr!

File: FormalConjectures/ErdosProblems/857.lean (hunk 1 above)
Comment (SproutSeeds) [reply FormalConjectures/ErdosProblems/857.lean:47]: Reworked this so the theorem no longer quantifies over an arbitrary witness `g`. It now follows the repos usual `answer(sorry)` pattern with a family `f : ℕ → ℕ → ℝ`, and asks for `(m n k : ℝ) / f k n → 1` for each `k ≥ 3`.

File: FormalConjectures/ErdosProblems/857.lean (hunk 2 above)
Comment (SproutSeeds) [reply FormalConjectures/ErdosProblems/857.lean]: I left the `ForMathlib` move out of this follow-up. The earlier cleanup already switched `857.lean` to reuse `ErdosProblems/20.lean`, which removed the local duplicate sunflower definitions; if youd still prefer a separate upstream-style extraction beyond that, I can split it into its own cleanup.

**Review by Paul-Lez — APPROVED** [review]

File: FormalConjectures/ErdosProblems/857.lean (hunk 2 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/857.lean]: Let's do this in the current PR: we usually try to avoid having a conjecture file import another conjecture file!

**Review by Paul-Lez — APPROVED** [review]
LGTM apart from the comment about imports

File: FormalConjectures/ErdosProblems/857.lean (hunk 2 above)
Comment (SproutSeeds) [reply FormalConjectures/ErdosProblems/857.lean]: Done in `74d42b6`: moved the shared sunflower definitions into `FormalConjecturesForMathlib.Combinatorics.SetFamily.Sunflower`, removed the `857.lean` import of `ErdosProblems/20`, rebased onto current `main`, and rebuilt `Sunflower`, `ErdosProblems/20`, and `ErdosProblems/857` successfully.

**Review by mo271 — APPROVED** [review]
Thanks, LGTM
